US04410539
Successive treatment of 3-bromo-6-(2-hydroxyethyl)-2-methylbenzo[b]thiophene with n-butyl lithium in ether followed by carbon dioxide according to the method of Example 11(ii) gave 6-(2-hydroxyethyl)-2-methylbenzo[b]thiophene-3-carboxylic acid, m.p. 166°-169° C. (from toluene).

reactant | 3-bromo-6-(2-hydroxyethyl)-2-methylbenzo[b]thiophene | BrC=1C2=C(SC1C)C=C(C=C2)CCO | C11H11BrOS
reactant | n-butyl lithium | C(CCC)[Li]
reactant | carbon dioxide | C(=O)=O | CO2
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | ether | CCOCC | C4H10O
product | 6-(2-hydroxyethyl)-2-methylbenzo[b]thiophene-3-carboxylic acid | OCCC=1C=CC2=C(SC(=C2C(=O)O)C)C1 | C12H12O3S
